US06747023B1
1-(tert-Butoxycarbonyl)-3,3-dimethylpiperazine
To a methylene chloride solution (5.0 ml) of 2,2-dimethylpiperazine (460 mg, 4.03 mmol) (J. Med. Chem., 1995, 38, 4389) was added di-tert-butyl dicarbonate (780 μl). The resulting mixture was stirred for 3 hours. The reaction mixture was diluted with methylene chloride and then added with saturated aqueous NaCl solution to separate into two layers. The water layer thus obtained was extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crudely purified product was purified by chromatography on a silica gel column (methylene chloride:methanol=10:1), whereby the title compound (360 mg) was obtained as a colorless oil.

reactant | 2,2-dimethylpiperazine | 4.03 mmol, 460 mg | CC1(NCCNC1)C | C6H14N2
reactant | di-tert-butyl dicarbonate | 780 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaCl | [Na+].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
product | 1-(tert-Butoxycarbonyl)-3,3-dimethylpiperazine | C(C)(C)(C)OC(=O)N1CC(NCC1)(C)C | C11H22N2O2
